US09145429B2
A mixture of 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinonitrile (150 mg, 0.53 mmol), benzo[c][1,2]oxaborole-1,5(3H)-diol (84 mg, 0.56 mmol) and Cs2CO3 (209 mg, 0.64 mmol) in DMSO (20 mL) was stirred at 40° C. overnight. The mixture was diluted by water, extracted by EtOAc, the separated organic layer was concentrated in vacuo and the residue was purified by column chromatography (Petroleum ether:EtOAc=10:1˜1:1) to afford 5-cyclopropyl-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile. (120 mg, 57%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 9.18 (s, 1H), 7.86 (s, 1H), 7.76 (d, J=8.0, 1H), 7.24 (d, J=2.0, 1H), 7.16 (dd, J=8.0, 2.0, 1H), 4.96 (s, 2H), 4.04 (m, 2H), 3.42 (m, 2H), 2.05 (m, 2H), 0.97 (d, J=6.0, 6H), 0.92 (m, 2H), 0.77 (m, 2H).

reactant | 6-chloro-5-cyclopropyl-2-(2-isopropoxyethoxy)nicotinonitrile | 0.53 mmol, 150 mg | ClC1=NC(=C(C#N)C=C1C1CC1)OCCOC(C)C | C14H17ClN2O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 0.56 mmol, 84 mg | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 0.64 mmol, 209 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-cyclopropyl-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile | C1(CC1)C=1C(=NC(=C(C#N)C1)OCCOC(C)C)OC1=CC2=C(B(OC2)O)C=C1 | C21H23BN2O5
